datasets/10k_Mayr_OG.csv
SMILES Labelled
C1=CC=C([P:71](C2=CC=CC=C2)([CH-:10][C:61]#[N:62])=[O:72])C=C1.C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2>>C1=CC=C([P:71](C2=CC=CC=C2)([CH:10]([CH:20]([C:31]2=[CH:32][C:33]3=[C:34](OCC3)[CH:35]=[CH:36]2)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]2)[C:61]#[N:62])=[O:72])C=C1 10=20
"CC[O:62]/[C:11](=[CH:10]/[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[O-:12].F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC[O:62][C:11]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:12] 10,11=10,20;12=11,12"
"C[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95](C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[C+:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95](C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1.O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21,22;22,23=23"
"CC1=CC=C([P:10](C2=CC=C(C)C=C2C)C2=CC=C(C)C=C2C)C(C)=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([P+:10](C2=CC=C(C)C=C2C)(C2=CC=C(C)C=C2C)C2=CC=C(C)C=C2C)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.Cl[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>Cl[C:63]1=[CH:62][CH:61]=[N+:10]([C:20]([O-:21])=[N:31]C2=CC=CC=C2)[CH:71]=[CH:72]1 10=20;20,21=21"
"C1C[C:20](=[O:21])CCS1.C1C[N:12]2CC[S:62][C:11]2=[N:10]1>>C1C[C:20]([N:10]2CC[N+:12]3=[C:11]2[S:62]CC3)([O-:21])CCS1 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"CSC[C:20](C)=[O:21].C[C:11](C1CC1)=[CH2:10]>>CSC[C:20](C)([CH2:10][C+:11](C)C1CC1)[O-:21] 10,11=10,20;20,21=21"
C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3(C4=CC=CC=C4)[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>C[S+:61](C)[CH:10]([CH2:20][C:31]12C3(C4=CC=CC=C4)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]32(C#[O+])(C#[O+])C#[O+])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1 10=20
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.CC1=CC=[C:10]([B-:11]2(C3=CC=C(N(C)C)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1=CC=[C:10]([CH:20](C2=CC=CC=C2)[CH:21]=[C:22]=[N-:23])S1.CN(C)C1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CCO1.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C:11](=[N+:12]2CCOCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[Si](C(C)C)(C(C)C)[N:12]1[CH:11]=[CH:10][CH:61]=[CH:62]1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC(C)[Si](C(C)C)(C(C)C)[N+:12]1=[CH:11][CH:10]([S:20]C(F)(F)F)[CH:61]=[CH:62]1 10,11=10,20;12=11,12;20,21=21"
"CC[O:82][C:71]([N-:10][C:61](C)=[O:62])=[O:72].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CC[O:82][C:71]([N:10]([CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:61](C)=[O:62])=[O:72] 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1.CO[C:61]([O-:10])=[O:62]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([O:10][C:61](OC)=[O:62])[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
